US08383641B2
o. 4-Oxazol-4-yl-benzenesulfonyl Chloride
A solution of 2-bromo-1-phenyl-ethanone (40 g, 201 mmol) and ammonium formiate (44.35 g, 703 mmol) in formic acid (75 ml) was heated to reflux for 2 h. The reaction mixture was evaporated under reduced pressure, and the residue was added to water, which was extracted three times with dichloromethane. The crude product was purified by silica gel chromatography using ethyl acetate/heptane (0:10; 1:9) as eluent. At 0° C., 4-pPhenyloxazole (3 g, 20.67 mmol) was added slowly to 24.08 g of chlorosulfonic acid (206.67 mmol). The reaction mixture was stirred for 20 min at 0-5° C. and then warmed to room temperature, and finally stirred at 45° C. for 2 h. The reaction mixture was then added cautiously (!) to ice water. The precipitate was filtered, washed with water and dried in a vacuum oven at 30° C. to give the title compound (4.3 g, 76.8%).

reactant | 2-bromo-1-phenyl-ethanone | 201 mmol, 40 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | ammonium formiate | 703 mmol, 44.35 g | C(=O)[O-].[NH4+]
reactant | chlorosulfonic acid | 206.67 mmol, 24.08 g | ClS(=O)(=O)O | ClHO3S
solvent | formic acid | 75 ml | C(=O)O | CH2O2
product | 4-Oxazol-4-yl-benzenesulfonyl Chloride | 4.3 g, 76.8% | O1C=NC(=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
